US07985753B2
N-[2-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-1-methyl-1,2,3,4-tetrahydro-isoquinolin-5-yl]-acetamide
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with N-(1-Methyl-1,2,3,4-tetrahydro-isoquinolin-5-yl)-acetamide to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | N-(1-Methyl-1,2,3,4-tetrahydro-isoquinolin-5-yl)-acetamide | CC1NCCC2=C(C=CC=C12)NC(C)=O | C12H16N2O
product | N-[2-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-1-methyl-1,2,3,4-tetrahydro-isoquinolin-5-yl]-acetamide | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=CC(=C1CC2)NC(C)=O)C | C19H18BrN5O2
